US06166006
To a solution of 5-bromosalicylaldehyde (10.0 g) and tert-butyl acrylate (17.5 ml) in tert-butanol (100 ml) was added potassium tert-butoxide (1.67 g) at room temperature, and the mixture was refluxed for 66 hours and cooled to room temperature. To the mixture was added ethyl acetate, and the mixture was washed with water, 1N sodium hydroxide and saturated sodium chloride solution, dried with magnesium sulfate and concentrated. The residue was separated and purified with column chromatography (ethyl acetate/hexane=1:19) to give tert-butyl 6-bromo-2H-1-benzopyran-3-carboxylate (10.86 g) as pale yellow crystals.

reactant | 5-bromosalicylaldehyde | 10.0 g | BrC1=CC=C(C(C=O)=C1)O | C7H5BrO2
reactant | tert-butyl acrylate | 17.5 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
reactant | potassium tert-butoxide | 1.67 g | CC(C)([O-])C.[K+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tert-butanol | 100 ml | C(C)(C)(C)O | C4H10O
product | tert-butyl 6-bromo-2H-1-benzopyran-3-carboxylate | 10.86 g | BrC=1C=CC2=C(C=C(CO2)C(=O)OC(C)(C)C)C1 | C14H15BrO3
